US05403839
Ethyl 6H-pyrido[3,2,1-de]acridin-1(2H)-one 10 carboxylate
To a freshly prepared solution of sodium ethoxide in ethanol (from 0.35 g sodium metal and 10 ml ethanol) was added 6H-pyrido[3,2,1-de]acridin-1 (2H)-one (1.2 g) portionwise over a period of 10 minutes. To the resulting dark red solution was slowly added diethyl carbonate (1.77 g) and the solution was then refluxed for 3 hours. The reaction mixture was cooled, acidified to pH 2 with concentrated HCl and then extracted with methylene chloride. The organic extract was washed with water and was then collected, dried and evaporated to dryness to obtain a light amber solid (1.8 g; m.p. 113°-118° C.).

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | 6H-pyrido[3,2,1-de]acridin-1 (2H)-one | 1.2 g | C1(CCC=2C=CCC3=CC=4C=CC=CC4N1C23)=O | C16H13NO
reactant | diethyl carbonate | 1.77 g | C(OCC)(OCC)=O | C5H10O3
reactant | HCl | Cl | ClH
solvent | ethanol | 10 ml, 0.35 g | C(C)O | C2H6O
product | Ethyl 6H-pyrido[3,2,1-de]acridin-1(2H)-one | C(C)C1CC=2C=CCC3=CC=4C=CC=CC4N(C23)C1=O | C18H17NO
